US06184398B2
Preparation of 1α,3β-dihydroxy-20(S)-(4-hydroxy-4-methylpentylthio)pregna-5,7,16-triene
Under the same conditions as in Example 9, 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-(4-methyl-4-triethylsilyloxypentylthio)pregna-5,7,16-triene (55.7 mg, 0.0825 mmol), tetrahydrofuran (2 ml) and IM tetra-n-butylammonium fluoride solution in tetrahydrofuran (2 ml) were reacted and worked up, and then the residue was purified by preparative thin layer chromatography (0.5 mm×2, dichloromethane:ethanol=7:1, developed once) to give the title compound as a colorless oil (34.1 mg, 92%).

reactant | 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-(4-methyl-4-triethylsilyloxypentylthio)pregna-5,7,16-triene | 0.0825 mmol, 55.7 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SCCCC(C)(O[Si](CC)(CC)CC)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C39H70O3SSi2
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1α,3β-dihydroxy-20(S)-(4-hydroxy-4-methylpentylthio)pregna-5,7,16-triene | 34.1 mg, 92% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SCCCC(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H42O3S
